US06727264B1
2-METHYL-N-(3-{1-[5-(1-METHYL-2-PHENYL-1H-INDOL-3-YL)PENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(7-oxo-7-phenylheptyl)-4-piperidinyl]phenyl}propanamide and 1-methyl-1-phenylhydrazine: ESMS m/e: 522.3 (M+H)+.

reactant | 2-methyl-N-{3-[1-(7-oxo-7-phenylheptyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCCC(C1=CC=CC=C1)=O)C | C28H38N2O2
reactant | 1-methyl-1-phenylhydrazine | CN(N)C1=CC=CC=C1 | C7H10N2
product | 2-METHYL-N-(3-{1-[5-(1-METHYL-2-PHENYL-1H-INDOL-3-YL)PENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCCC1=C(N(C2=CC=CC=C12)C)C1=CC=CC=C1)C | C35H43N3O
